US05238599
Over an ice water bath, 37 g (0.22 mol) of trans-4-butylcyclohexyl methanol and 18 g (0.23 mol) of anhydrous pyridine were stirred and 32 g (0.27 mol) of SOCl2 was added drop-wise to the mixture. The resulting reaction product was stirred on a mantle heater at a temperature of between about 105 and 110° C. for 3 hours. The reaction product was cooled to room temperature and poured into a breaker containing concentrated hydrochloric acid and ice. The oily layer was separated out and the aqueous layer was extracted with chloroform. The two layers were combined and washed with an aqueous 10% hydrochloric acid solution and water. The chloroform was distilled off. The oily residue was distilled in a vacuum (b.p. 80° C./3 mmHg) to yield 38 g (0.20 mol) of trans-4-butylcyclohexyl chloromethane.

reactant | trans-4-butylcyclohexyl methanol | 0.22 mol, 37 g | C(CCC)[C@@H]1CC[C@H](CC1)CO | C11H22O
reactant | pyridine | 0.23 mol, 18 g | N1=CC=CC=C1 | C5H5N
reactant | SOCl2 | 0.27 mol, 32 g | O=S(Cl)Cl | Cl2OS
reactant | hydrochloric acid | Cl | ClH
product | trans-4-butylcyclohexyl chloromethane | 0.20 mol, 38 g | C(CCC)[C@@H]1CC[C@H](CC1)CCl | C11H21Cl
